US05280032
In 1.5 ml of methanol was dissolved 250 mg of 2-[(1,4-diformylpiperazin-2-yl)methoxy]-1-(1-naphthyl)ethanol. To the solution was added 1.5 ml of a 5N dry hydrogen chloride-ethanol solution. The mixture was allowed to stand at room temperature overnight. The resulting crystals were collected by filtration, washed with ethanol, and dried to obtain 180 mg of 1-(1-naphthyl)-2-[(piperazin-2-yl)methoxy]ethanol dihydrochloride (compound No. 274).

reactant | 2-[(1,4-diformylpiperazin-2-yl)methoxy]-1-(1-naphthyl)ethanol | 250 mg | C(=O)N1C(CN(CC1)C=O)COCC(O)C1=CC=CC2=CC=CC=C12 | C19H22N2O4
reactant | hydrogen chloride ethanol | 5N | Cl.C(C)O
solvent | methanol | 1.5 ml | CO | CH4O
product | 1-(1-naphthyl)-2-[(piperazin-2-yl)methoxy]ethanol dihydrochloride | 180 mg | Cl.Cl.C1(=CC=CC2=CC=CC=C12)C(COCC1NCCNC1)O | InChI=1S/C17H22N2O2.2ClH/c20-17(12-21-11-14-10-18-8-9-19-14)16-7-3-5-13-4-1-2-6-15(13)16;;/h1-7,14,17-20H,8-12H2;2*1H
